US07276518B2
Benzothiophene-3-carbaldehyde (4.0 g, 24.6 mmol) was dissolved in a mixture of pyridine (25 ml) and ethanol (25 ml). Hydroxylamine hydrochloride (3.4 g, 49.2 mmol) was added, while stirring. The mixture was stirred for 30 minutes at RT and then heated under reflux for eight hours. A red-brown solution formed. For working up, the solution was concentrated and the residue was freed from residual pyridine by distillation with ethanol (3×50 ml). Water (50 ml) was added to the oily residue and the mixture was stirred vigorously overnight. The pink solid present was filtered off with suction, washed with water and dried in vacuo. 4.3 g benzothiophene-3-carbaldehyde oxime were obtained (m.p. 87-89° C.).

reactant | Benzothiophene-3-carbaldehyde | 24.6 mmol, 4.0 g | S1C=C(C2=C1C=CC=C2)C=O | C9H6OS
reactant | Hydroxylamine hydrochloride | 49.2 mmol, 3.4 g | Cl.NO
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | benzothiophene-3-carbaldehyde oxime | 4.3 g | S1C=C(C2=C1C=CC=C2)C=NO | C9H7NOS
